US06642389B2
b] 2-(4-Methoxy-benzoylamino)-pent-4-enoic acid
10.56 g of the above prepared 2-(4-methoxy-benzoylamino)-pent-4-enoic acid ethyl ester (38.1 mmol) was dissolved in 120 ml of THF/EtOH=1/1 and treated at 0° with 38 ml of 2N NaOH. The reaction mixture was kept at this temperature for 3 h. It was then poured onto crashed ice/HCl, extracted twice with AcOEt, washed with brine, and dried over natrium sulfate. Evaporation of the solvents, followed by crystallisation from AcOEt at −20°, yielded 8.41 g of the title acid as white crystals of m.p. 121-124°.

reactant | 2-(4-methoxy-benzoylamino)-pent-4-enoic acid ethyl ester | 38.1 mmol | C(C)OC(C(CC=C)NC(C1=CC=C(C=C1)OC)=O)=O | C15H19NO4
reactant | NaOH | 2N, 38 ml | [OH-].[Na+]
solvent | THF EtOH | 120 ml | C1CCOC1.CCO
product | 2-(4-Methoxy-benzoylamino)-pent-4-enoic acid | COC1=CC=C(C(=O)NC(C(=O)O)CC=C)C=C1 | C13H15NO4
